US07220862B2
4-(2-Amino-benzyl)-piperidine-1,4-dicarboxylic acid 1-tert-butyl ester 4-ethyl ester
A mixture of 4-(2-nitro-benzyl)-piperidine-1,4-dicarboxylic acid 1-tert-butyl ester 4-ethyl ester (1.61 g, 4.102 mmol) and 10% palladium on charcoal (0.10 g) in ethanol (190 mL) was hydrogenated at 50 psi overnight. The resultant mixture was filtered through a plug of celite, and the filtrate concentrated under vacuum to provide the desired product (1.29 g, 99%) as colorless oil. Mass spec.: 363.45 (MH)+.

reactant | 4-(2-nitro-benzyl)-piperidine-1,4-dicarboxylic acid 1-tert-butyl ester 4-ethyl ester | 4.102 mmol, 1.61 g | C(C)OC(=O)C1(CCN(CC1)C(=O)OC(C)(C)C)CC1=C(C=CC=C1)[N+](=O)[O-] | C20H28N2O6
catalyst | palladium on charcoal | 0.10 g | [Pd] | Pd
solvent | ethanol | 190 mL | C(C)O | C2H6O
product | 4-(2-Amino-benzyl)-piperidine-1,4-dicarboxylic acid 1-tert-butyl ester 4-ethyl ester | 1.29 g, 99% | C(C)OC(=O)C1(CCN(CC1)C(=O)OC(C)(C)C)CC1=C(C=CC=C1)N | C20H30N2O4
